US07618961B2
Ethyl (2-{[(2,4-dichloro-6-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 2,4-dichloro-6-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (34.6 mg) with purity >90%: LCMS (pos) m/z 409.0, 411.0; HRMS m/z 407.9753 (calc. of monoisotopic mass for C14H14Cl2N2O4S2 gives 407.9772).

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 2,4-dichloro-6-methylbenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)Cl | C7H5Cl3O2S
product | Ethyl (2-{[(2,4-dichloro-6-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C14H14Cl2N2O4S2
